US06133271
With the procedure of Example 1, the reaction of 4-fluoro-3,4-methylenedioxyphenethylamine with 4-chloro-2-(pyridin-3-yl)-5-methyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-3-yl)-4-(3,4-methylenedioxyphenethylamino)-5-methyl-thieno-[2,3-d]-pyrimidine.

reactant | 4-fluoro-3,4-methylenedioxyphenethylamine | FC12C(C=C(CCN)C=C1)OCO2 | C9H12FNO2
reactant | 4-chloro-2-(pyridin-3-yl)-5-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C=1C=NC=CC1)SC=C2C | C12H8ClN3S
product | 2-(pyridin-3-yl)-4-(3,4-methylenedioxyphenethylamino)-5-methyl-thieno-[2,3-d]-pyrimidine | N1=CC(=CC=C1)C=1N=C(C2=C(N1)SC=C2C)NCCC2=CC1=C(C=C2)OCO1 | C21H18N4O2S
